data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_316506_2,[N:1]([C:3]1([C:4](=[C:5]([H:14])[H:15])[H:13])/[C:2](=[N:7]/[H:11])[N:8]1[H:12])([O:6][H:9])[H:10]>>[N:1]([C:3](/[C:2]([C:4](=[C:5]([H:14])[H:15])[H:13])=[N:7]\[H:11])=[N:8]\[H:12])([O:6][H:9])[H:10],66.07826000002916
MR_694360_1,[C:1](/[C:2]([C:4](=[C:5]([H:13])[H:14])[H:12])=[N:7]/[H:11])([O:6][N:3]([H:9])[H:10])=[O:8]>>[C:1]1(=[O:8])[C:2]([C:4](=[C:5]([H:13])[H:14])[H:12])([O:6][N:3]([H:9])[H:10])[N:7]1[H:11],67.79572750000895
MR_669199_2,[C@@:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:14])([N:5]([H:11])[H:12])([C:6](=[C:8]([H:21])[H:22])[H:13])[O:9][H:10]>>[C@:1]1([N:5]([H:11])[H:12])([O:9][H:10])[C@:4]([C:2]([H:15])([H:16])[H:17])([C:6](=[C:8]([H:21])[H:22])[H:13])[C@@:7]1([C:3]([H:18])([H:19])[H:20])[H:14],63.55759250000844
MR_426598_0,[C:1]([C:2](=[C:5]([H:14])[H:15])[N:7]=[C:4]([H:12])[H:13])([N:3]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]([C:2](=[C:5]([H:14])[H:15])[H:9])([N:3]([H:10])[H:11])([O:6][H:8])[N:7]=[C:4]([H:12])[H:13],72.65257749998113
MR_305455_1,[C:1](/[C:6](=[C:5](\[N:2](/[C:3]([N:4]([H:10])[H:11])=[N:8]\[H:12])[O:7][H:9])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C@@:6](/[C:3]([N:4]([H:10])[H:11])=[N:8]\[H:12])(/[C:5](=[N:2]/[O:7][H:9])[H:13])[H:14])([H:15])([H:16])[H:17],68.54998249995944
MR_603263_1,[C:1]([C:3]([C:2](=[C:4]([H:20])[H:22])[H:13])([H:18])[H:19])([C:5]([O:8][H:11])([O:9][H:12])[O:10][H:21])([N:6]([H:14])[H:15])[N:7]([H:16])[H:17]>>[C:1]([C:3]([C:2]([C:4]([H:20])([H:21])[H:22])([O:9][H:12])[H:13])([H:18])[H:19])([C:5]([O:8][H:11])=[O:10])([N:6]([H:14])[H:15])[N:7]([H:16])[H:17],49.62081749998987
MR_232962_0,[C:1]([C:4]([C:3](/[C:5]([N:7]([H:13])[H:14])=[C:8](/[C:2]([H:19])([H:20])[H:21])[H:15])[N:6]([H:11])[H:12])[O:9][H:10])([H:16])([H:17])[H:18]>>[C:1]([C@@:4]1([O:9][H:10])[C:3]([N:6]([H:11])[H:12])=[C:5]([N:7]([H:13])[H:14])[C@@:8]1([C:2]([H:19])([H:20])[H:21])[H:15])([H:16])([H:17])[H:18],37.41092249999866
MR_442685_0,[C:1]([C:2]([N:6]([C:5]([H:20])([H:21])[H:22])[H:9])([H:12])[H:13])([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])[O:8][N:7]([H:10])[H:11]>>[C:1]([C:2]([O:8][N:7]([H:10])[H:11])([H:12])[H:13])([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])[N:6]([C:5]([H:20])([H:21])[H:22])[H:9],72.89102750005682
MR_438341_1,[C:1](/[C:4](=[C:6](\[N:3]([N:2]([N:5]([H:11])[H:12])[H:9])[H:10])[H:13])[O:7][H:8])([H:14])([H:15])[H:16]>>[C:1]([C@@:4]([N:2]([N:5]([H:11])[H:12])[H:9])(/[C:6](=[N:3]/[H:10])[H:13])[O:7][H:8])([H:14])([H:15])[H:16],34.00548000000029
MR_448630_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([N:6]([H:11])[H:12])[O:9][H:10])=[O:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([N:6]([H:11])[H:12])=[O:9])([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[O:8][H:10],38.8817824999947
MR_600448_0,[C:1]1([O:7][H:9])([H:11])[C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:17])[H:18])([O:8][H:10])[C:5]1([H:15])[H:16]>>[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:17])[H:18])=[C:5]([H:15])[H:16])([O:7][H:9])([O:8][H:10])[H:11],65.16901250000629
MR_58492_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:6](\[O:7][H:8])[H:12])([H:10])[H:11]>>[C:1](=[C:5]([C:3]([H:16])([H:17])[H:18])[C:6]([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])([O:7][H:8])[H:12])([H:10])[H:11],72.02382249999914
MR_439178_1,[C@:1]([C:3]([H:20])([H:21])[H:22])([N:4]([C:2]([H:17])([H:18])[H:19])/[C:5]([N:7]([H:13])[H:14])=[N:9]/[N:6]([H:11])[H:12])([N:8]([H:15])[H:16])[H:10]>>[C@@:1]([C:3]([H:20])([H:21])[H:22])([N:8]([H:15])[H:16])([N:9](/[C:5](=[N:4]\[C:2]([H:17])([H:18])[H:19])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])[H:10],51.16195749998681
MR_97123_0,[C:1](/[N:8]=[C:2](\[O:6][H:9])[N:7]=[C:3]([N:4]([H:11])[H:12])[N:5]([H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:8]1[C:2]([O:6][H:9])=[N:7][C:3]1([N:4]([H:11])[H:12])[N:5]([H:10])[H:13])([H:14])([H:15])[H:16],42.05881499999904
MR_640570_0,[C:1]([N:3]([H:9])[H:10])([C:4](=[O:7])[H:11])(/[N:6]=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:12])[H:8]>>[C:1](\[N:3]([H:9])[H:10])(=[N:6]\[C:5]([C:2]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:11])[H:12])[H:8],59.76561000002292
MR_404250_1,[C:1]([C:3](/[C:4]([N:5]([H:10])[H:11])=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])=[N:8]/[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:4]([N:5]([H:10])[H:11])[C@@:6]([C:2]([H:16])([H:17])[H:18])([H:12])[N:8]1[O:7][H:9])([H:13])([H:14])[H:15],60.0385724999758
MR_269618_2,[N:1](/[C:2](=[C:3](\[N:6]([H:14])[H:15])[N:8]=[C:7]([H:16])[H:17])[N:5]([H:12])[H:13])([N:4]([H:10])[H:11])[H:9]>>[N:1](/[C:3](=[C:2](\[N:5]([H:12])[H:13])[N:8]=[C:7]([H:16])[H:17])[N:6]([H:14])[H:15])([N:4]([H:10])[H:11])[H:9],9.049805000015423
MR_597739_0,[C:1]1([N:5]([H:10])[H:11])([O:7][H:9])[C:2]([H:15])([H:16])[C:3]([H:17])([H:18])[C:4]1([N:6]([H:12])[H:13])[N:8]([H:14])[H:19]>>[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])([H:15])[H:16])(/[C:4]([N:6]([H:12])[H:13])=[N:8]\[H:14])([N:5]([H:10])[H:11])[O:7][H:9],66.26776499997874
